US06342765B1
Methyl (2S)-2-{5-[2-(4-methylimidazol-1-yl)-1-(thiazol-2-yl)ethoxy]-2-(4-fluorophenethyl)benzoylamino}-4-methylsulfanylbutyrate
A mixture of 5-[2-(4-methylimidazol-1-yl)-1-(thiazol-2-yl)ethoxy]-2-(4-fluorophenethyl)benzoic acid (0.4 g; 0.89 mM), L-methionine methyl ester hydrochloride (0.27 g, 1.35 mM) and DMAP (0.54 g, 4.43 mM) was stirred until solution and EDC (0.026 g, 1.35 mM) in dichloromethane was added and the mixture stirred for 18 hours. It was purified on silica using dichloromethane then methanol/dichloromethane (5:95) as eluant to give the title product (0.47 g, 89%) as a foam.

reactant | 5-[2-(4-methylimidazol-1-yl)-1-(thiazol-2-yl)ethoxy]-2-(4-fluorophenethyl)benzoic acid | 0.89 mM, 0.4 g | CC=1N=CN(C1)CC(OC=1C=CC(=C(C(=O)O)C1)CCC1=CC=C(C=C1)F)C=1SC=CN1 | C24H22FN3O3S
reactant | L-methionine methyl ester hydrochloride | 1.35 mM, 0.27 g | Cl.COC([C@@H](N)CCSC)=O
reactant | EDC | 1.35 mM, 0.026 g
catalyst | DMAP | 4.43 mM, 0.54 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | Methyl (2S)-2-{5-[2-(4-methylimidazol-1-yl)-1-(thiazol-2-yl)ethoxy]-2-(4-fluorophenethyl)benzoylamino}-4-methylsulfanylbutyrate | 0.47 g, 89% | CC=1N=CN(C1)CC(OC=1C=CC(=C(C(=O)N[C@H](C(=O)OC)CCSC)C1)CCC1=CC=C(C=C1)F)C=1SC=CN1 | C30H33FN4O4S2
